2135-11-28 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   VTach
   24 Hour Events:
   No events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-11-28**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 73) bpm
   BP: 119/68(80) {100/52(64) - 140/76(90)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    989 mL
                                                                    291 mL
   PO:
                                                                    660 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    329 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    375 mL
   Urine:
                                                                    450 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   GEN: not in acute distress, but appears chronically ill and fatigued
   HEENT: MMM, JVP not elevated while patient sitting up in bed
   CV: rrr, s1 is obscurred by a III/VI holosystolic murmur heard best at
   LLSB and over mitral area that does not radiate to carotids
   RESP: crackles bilaterally @ bases of lungs
   ABD: soft, NT, palpaple mass over site of previous abdominal ICD site
   EXT: no c/c/e
   Labs / Radiology
   189 K/uL
   11.7 g/dL
   4.3 mEq/L
   33.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2135-11-28**]  05:12 AM
   WBC
   7.4
   Hct
   33.8
   Plt
   189
   Other labs: PT / PTT / INR:32.8/37.1/3.4, Mg++:2.1 mg/dL
   Assessment and Plan
   73 y/o man with CAD, CHF, and refractory ventricular tachycardia
   .
   # Ventricular Tachycardia:  Stable.  Patient on Amiodarone gtt.
   Patient was previously on po Amiodarone, but there is a concern that
   patient may have been inappropriately loaded with amio.
   - continue IV amiodarone.
   - If has recurrent VT, can obtain 12lead, re-bolus IV lidocaine and
   begin lido gtt.
   - Will touch base with EP re: possible EP study.
   -up titrate BB as tolerated
   .
   # CAD: Continue ezetimibe. Patient is apparently intolerant of all
   statins.
   .
   # Hypertension: Controlled.  BP 119/79.  Continue lisinopril
   .
   # DM: RISS
   ICU Care
   Nutrition: NPO > mn, cardiac healthy when able to eat
   Glycemic Control:
   Lines:
   18 Gauge - [**2135-11-27**] 11:20 AM
   20 Gauge - [**2135-11-27**] 11:21 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
           1. IV access: Peripheral line Order date: [**11-27**] @ 1148
   8. Lisinopril 2.5 mg PO HS  Order date: [**11-27**] @ 1433
   2. Amiodarone 1 mg/min IV INFUSION  Order date: [**11-27**] @ 1152
   9. Lorazepam 0.5-1 mg PO ONCE Duration: 1 Doses Order date: [**11-27**] @
   1223
   3. Aspirin 81 mg PO DAILY  Order date: [**11-27**] @ 1148
   10. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety/insomnia  Order date: [**11-27**] @
   1433
   4. Ezetimibe 10 mg PO DAILY Start: In am Order date: [**11-27**] @ 1820
   11. Metoprolol Tartrate 50 mg PO TID  Order date: [**11-27**] @ 1433
   5. Fish Oil (Omega 3) 1000 mg PO HS  Order date: [**11-27**] @ 1433
   12. Pantoprazole 40 mg PO Q24H Start: In am Order date: [**11-27**] @ 1433
   6. Furosemide 80 mg PO BID Start: In am Order date: [**11-27**] @ 1433
   13. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-27**] @ 1148
   7. Heparin 5000 UNIT SC TID  Order date: [**11-27**] @ 1212

2135-11-29 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   EP started on PO Amio 400 [**Hospital1 **] x 2wks then QD, gtt stopped.  Mixilitine
   150 TID.  Patient was very concerned about TID dosing and GI upset.
   New Left arm thrombophlebitis, superficial on exam.
   C/O nausea with amio.  Compazine given.
   Felt that he had been shocked overnight but knew it wasn
t true because
   no pain.
   No CP/SOP/other new sx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-11-28**] 07:00 PM
   Heparin Sodium (Prophylaxis) - [**2135-11-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-11-29**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 71 (70 - 71) bpm
   BP: 142/72(90) {113/59(73) - 143/82(94)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 71.6 kg
   Height: 66 Inch
                  Total In:
                                                                  1,407 mL
                  PO:
                                                                    930 mL
                  TF:
   IVF:
                                                                    477 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    400 mL
   Urine:
                                                                  2,000 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -593 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   GEN: not in acute distress, but appears chronically ill and fatigued
   HEENT: MMM, JVP 6-10 cm
   CV: rrr, s1 is obscurred by a III/VI holosystolic murmur heard best at
   LLSB and over mitral area that does not radiate to carotids
   RESP: crackles bilaterally @ bases of lungs
   ABD: soft, NT, palpaple mass over site of previous abdominal ICD site
   EXT: 2+ pulses bilaterally, right toe noted to be blue, but with good
   capillary refill and intact sensation, no pain. (patient states happens
   when feet get cold)
   Labs / Radiology
                                     136
                               [image002.gif]
                                     101
                               [image002.gif]
                                     44
   [image004.gif]
   116
                                                                   AGap=14
   [image005.gif]
   4.3
                               [image002.gif]
                                     25
                               [image002.gif]
                                     2.3
   [image007.gif]
   97
                                                                       9.9
                                                            [image007.gif]
                                    11.7
   [image004.gif]
   179
                 [image008.gif]
   [image004.gif]
                                    33.4
   [image007.gif]
   PT: 26.2
   PTT: 33.8
   INR: 2.6
                             [**2135-11-28**]  05:12 AM
                             [**2135-11-28**]  12:00 PM
                             [**2135-11-28**]  05:00 PM
   WBC
   7.4
   Hct
   33.8
   Plt
   189
   Cr
   2.3
   Glucose
   120
   149
   138
   Other labs: PT / PTT / INR:32.8/37.1/3.4, Mg++:2.2 mg/dL
   No new micro or imaging
   Assessment and Plan
   73 y/o man with CAD, CHF, and refractory ventricular tachycardia
   .
   # Ventricular Tachycardia: appears that patient has failed several drug
   regemins, and options are limited due to his tolerance of medications
   as well as the multiple foci of excitable ventricular myocardium. Was
   recently on quinidine/mexilitine, but quinidine was discontinued due to
   GI intolerance. Had breakthrough VT on mexilitine on presentation to
   [**Hospital1 **]. It appears he was loaded on amiodarone IV and continued on
   mexilitine on discharge along with 200mg amiodarone, but continues to
   have VT, apparently refractory to his anti-tachycardic pacing.  EP
   evaluation considered unlikely to respond well to further ablation, but
   would be facilitated by 12 lead during v-tach event.
   - Transitioned Amiodarone to PO.  Patient tolerated with nausea and
   apprehension
   - Mixilitine TID.
   - Monitor for GI tolerance.  Omeprazole.
   .
   # CAD: Continue ezetimibe. Patient is apparently intolerant of all
   statins.
   .
   # Hypertension: continue lisinopril
   .
   # DM: RISS
   .
   # Thrombophlebitis: Monitor, consider U/S
   .
   # Psych: consider outpatient f/u for PTSD
   .
   # FEN: NPO > mn, cardiac healthy when able to eat
   .
   # ppx: hep SQ, takes protonix at home
   .
   # CODE: full
           1. IV access: Peripheral line Order date: [**11-27**] @ 1148
   9. Heparin 5000 UNIT SC TID  Order date: [**11-27**] @ 1212
   2. Amiodarone 400 mg PO QAM  Order date: [**11-28**] @ 1435
   10. Lisinopril 2.5 mg PO HS  Order date: [**11-27**] @ 1433
   3. Amiodarone 400 mg PO QPM Duration: 14 Days Order date: [**11-28**] @ 1435
   11. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety/insomnia  Order date: [**11-27**] @
   1433
   4. Aspirin 81 mg PO DAILY  Order date: [**11-27**] @ 1148
   12. Metoprolol Tartrate 50 mg PO TID  Order date: [**11-27**] @ 1433
   5. Ezetimibe 10 mg PO DAILY Start: In am Order date: [**11-27**] @ 1820
   13. Mexiletine 150 mg PO Q8H  Order date: [**11-28**] @ 1736
   6. Fish Oil (Omega 3) 1000 mg PO HS  Order date: [**11-27**] @ 1433
   14. Pantoprazole 40 mg PO Q24H  Order date: [**11-28**] @ 1847
   7. Furosemide 80 mg PO BID Start: In am Order date: [**11-27**] @ 1433
   15. Prochlorperazine 10 mg PO ONCE PRN nausea Duration: 1 Doses Order
   date: [**11-29**] @ 0751
   8. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-29**] @ 1037
   16. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-27**] @ 1148

2135-12-01 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2135-12-1**] 12:41 AM
   Anxious about HR.  No chest pain, shortness of breath, fevers, chills,
   new symptoms.
   Telemetry: PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2135-11-29**] 11:00 PM
   Vancomycin - [**2135-11-30**] 05:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-11-30**] 08:45 AM
   Pantoprazole (Protonix) - [**2135-11-30**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-1**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 70 (70 - 70) bpm
   BP: 135/70(84) {98/48(61) - 135/70(84)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 74 kg (admission): 71.6 kg
   Height: 66 Inch
    CVP: 11 (11 - 23)mmHg
   Total In:
                                                                  2,971 mL
                                                                    167 mL
   PO:
                                                                  1,020 mL
   TF:
   IVF:
                                                                  1,951 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    225 mL
   Urine:
                                                                    509 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,462 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   GEN: not in acute distress, but appears chronically ill and fatigued
   HEENT: MMM, JVP not elevated while patient sitting up in bed
   CV: rrr, s1 is obscurred by a II/VI holosystolic murmur heard best at
   LLSB and over mitral area that does not radiate to carotids
   RESP: crackles bilaterally @ bases of lungs
   ABD: soft, NT, palpaple mass over site of previous abdominal ICD site
   EXT: 2+ pulses bilaterally.  Left arm thrombophebitis and erythema
   resolved to improved.
   Labs / Radiology
   117 K/uL
   9.9 g/dL
   96 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.1 mEq/L
   66 mg/dL
   101 mEq/L
   134 mEq/L
   28.9 %
   12.3 K/uL
         [image002.jpg]
   [**Last Name (un) **] O2Sat 46%
   Anion gap 13 from 17 yesterday
                             [**2135-11-28**]  05:00 PM
                             [**2135-11-29**]  05:21 AM
                             [**2135-11-29**]  10:58 AM
                             [**2135-11-29**]  12:20 PM
                             [**2135-11-29**]  12:29 PM
                             [**2135-11-30**]  12:07 AM
                             [**2135-11-30**]  04:02 AM
                             [**2135-11-30**]  06:09 AM
                             [**2135-11-30**]  01:07 PM
                             [**2135-12-1**]  04:50 AM
   WBC
   9.9
   14.9
   29.6
   12.3
   Hct
   33.4
   35.2
   34.9
   28.9
   Plt
   179
   197
   200
   117
   Cr
   2.3
   2.5
   3.2
   3.5
   3.4
   TropT
   0.15
   0.11
   TCO2
   20
   13
   16
   Glucose
   138
   116
   132
   145
   181
   96
   Other labs: PT / PTT / INR:31.1/43.3/3.2, CK / CKMB /
   Troponin-T:71//0.11, Differential-Neuts:96.7 %, Lymph:1.7 %, Mono:1.4
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.4 mg/dL
   Echo: The left atrium is markedly dilated. The right atrium is markedly
   dilated. Left ventricular wall thicknesses are normal. The left
   ventricular cavity is moderately dilated. There is severe global left
   ventricular hypokinesis (LVEF = [**11-14**] %). The estimated cardiac index
   is depressed (<2.0L/min/m2). with depressed free wall contractility.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. No masses or vegetations are seen on the aortic valve.
   Trace aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. A mitral valve annuloplasty ring is present. There is
   a small vegetation (0.5x0.4cm^2) 0n the mitral annuloplasty ring (clip
   [**Clip Number (Radiology) **]). Moderate (2+) mitral regurgitation is seen. The tricuspid valve
   leaflets are mildly thickened. Severe [4+] tricuspid regurgitation is
   seen. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2135-9-23**], the left
   ventricular function is worse. There is possibly a small vegetation on
   the mitral annuloplasty ring. The severity of tricuspid regurgitation
   has decreased.
   Micro: [**10-29**] Wound & blood culture with Coag + Staph Aureus,  10/5&[**10-31**]
   BCx NGTD
   Assessment and Plan
   73 y/o man with CAD, CHF, and refractory ventricular tachycardia
   .
   # Sepsis: Grew [**4-29**] MRSA within 14 hours and has S. Aureus from right UE
   wound culture.  Initailly required IVF, pressors, Right IJ line, A
   line.  Started on Vanc and Levo but then weaned to Vanc based on
   culture results.  Given possible overestimated CVP due to severe TR,
   goal ~20.  His lactate improved over 24 hours, he was weaned off
   pressors.  A TTE showed a small vegitation on the mitral annuloplasty
   ring.
   - will likely need 6 weeks of IV Vanc.
   .
   # Acute on Chronic Renal Failure: Due to hypoperfusion during sepsis
   - complicated by hyperkalemia, acidosis, elevated troponin.  Starting
   to make more urine, Cr stable.
   - follow UOP, Cr.
   .
   # Acidosis - anion gap, nonanion gap and resp alk.  ABG showed pH of
   7.36, so no bicarb given.  Gap has been closing and HCO3 improved
   today.
   .
   # Pacer changes:  On [**11-29**] switched to AV pacing from previous A pacing.
   Secondary to AV conduction prolongation due to decreased clearing of
   mexiletine. Resolved spontaneously. Pt asymptomatic. Today heart rates
   in the 70-80 range from previous steady 70s.  Narrow QRS with P-waves.
   Appears to be in sinus.
   - daily EKGs
   .
   # Ventricular Tachycardia:
   - No episodes, stable on Mexiletine and Amio
   - Avoiding Compazine for GI intolerance, on Zofran.
   - If goes into VT, give lidocaine 50-100mg bolus then [**1-26**]/min gtt.
   .
   # CAD: On Zetia (intolerant of statins), ASA, holding BB and ACEi
   .
   # Hypertension: ACEi, BB and Lasix held per BP
   .
   # DM: RISS
   .
   # UE DVT: confirmed by US, already anticoagulated on coumadin. [**Month (only) 60**] have
   to increase length of Abx treatment if endovascular infection.
   # FEN: HH, no IVF, lytes prn (repeating this afternoon)
   # ppx: hep SQ, takes protonix at home
   # CODE: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-11-29**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-12-02 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 73 y/o man with CAD, CHF, and refractory ventricular
   tachycardia, presents for medical management, course complicated by
   MRSA sepsis.
   24 Hour Events:
   Seen by ID: recommended TEE at later date, IR for hematoma drainage,
   and Vascular surgery re: thrombophlebitis.
   Has had cough x 2 weeks and now positional exp wheezes at neck.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2135-11-29**] 11:00 PM
   Vancomycin - [**2135-11-30**] 05:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-12-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 78 (70 - 81) bpm
   BP: 150/85(99) {109/59(70) - 160/88(104)} mmHg
   RR: 26 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.8 kg (admission): 71.6 kg
   Height: 66 Inch
    CVP: 22 (16 - 22)mmHg
   Total In:
                                                                    830 mL
                                                                     72 mL
   PO:
                                                                    490 mL
   TF:
   IVF:
                                                                    340 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    300 mL
   Urine:
                                                                    970 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: moist mucosal membranes
   Lymphatic: no lymphadenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), unable to assess murmurs
   due to loud resp sounds
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present),
   Respiratory / Chest: Crackles at right base, Exp wheezes diffusely and
   loudest at neck, abdominal breathing
   Abdominal: Soft, Non-tender, Bowel sounds present, hematoma nontender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, multiple echymoses at IV sites, firmness and cord felt in
   left antecubital area
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   114 K/uL
   9.7 g/dL
   94 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   70 mg/dL
   104 mEq/L
   135 mEq/L
   28.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2135-11-29**]  10:58 AM
                             [**2135-11-29**]  12:20 PM
                             [**2135-11-29**]  12:29 PM
                             [**2135-11-30**]  12:07 AM
                             [**2135-11-30**]  04:02 AM
                             [**2135-11-30**]  06:09 AM
                             [**2135-11-30**]  01:07 PM
                             [**2135-12-1**]  04:50 AM
                             [**2135-12-1**]  04:06 PM
                             [**2135-12-2**]  04:28 AM
   WBC
   14.9
   29.6
   12.3
   13.4
   10.1
   Hct
   35.2
   34.9
   28.9
   30.0
   28.3
   Plt
   197
   200
   117
   118
   114
   Cr
   2.5
   3.2
   3.5
   3.4
   2.8
   TropT
   0.15
   0.11
   TCO2
   20
   13
   16
   Glucose
   132
   145
   181
   96
   94
   Other labs: PT / PTT / INR:31.4/42.0/3.2, CK / CKMB /
   Troponin-T:71//0.11, Differential-Neuts:96.7 %, Lymph:1.7 %, Mono:1.4
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   73 y/o man with CAD, CHF, and refractory ventricular tachycardia
   .
   # MRSA Sepsis and endocarditis of MR ring: Treated with Vancomycin, now
   off pressors, IVF. Lactace improved.
   - Likely source left arm thrombophlebitis, will d/w vascular [**Doctor First Name 458**]
   - Daily EKGs
   - TEE eventually
   - will likely need 6 weeks of IV [**Last Name (LF) **], [**First Name3 (LF) 178**] order PICC today given 48
   hours of no growth on BCx.
   .
   # Resp status
 expiratory upper airway wheezes, bilateral basal
   crackles
   - Satting well
   - Neb treatment and Lasix 80mg IV x 1 (had previously not responded to
   40mg IV).
   .
   # Acute on Chronic Renal Failure: Due to hypoperfusion during sepsis,
   now improving
   .
   # Acidosis - anion gap closed, although HCO3 down to 18.
   .
   # Ventricular Tachycardia:
   - No episodes, stable on Mexiletine and Amio
   - Avoiding Compazine for GI intolerance, on Zofran.
   - If goes into VT, give lidocaine 50-100mg bolus then [**1-26**]/min gtt.
   .
   # CAD: On Zetia (intolerant of statins), ASA
   - Held holding BB and ACEi while septic and hypotensive, will restart
   BB slowly. Would continue to hold ACEi given renal function
   .
   # Hypertension: Consider restarting BB but holding Lasix and ACEi until
   renal function stabilizes.
   .
   # DM: RISS
   .
   # UE DVT: confirmed by US, already anticoagulated on coumadin. [**Month (only) 60**] have
   to increase length of Abx treatment if endovascular infection.
   - Discuss with vascular surgery re removal of infection source.
   .
   # Abdominal Hematoma: Will hold off on draining based on improvement.
   # FEN: HH, no IVF, lytes prn
   # ppx: hep SQ, PO PPI
   # Full Code
   Active Medications [**Known lastname **],[**Known firstname **] E
   1. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN  Order date: [**11-30**] @ 0108
   2. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**11-29**] @ 1728
   3. Lorazepam 0.5-1 mg PO/IV Q6H:PRN anxiety  Order date: [**12-1**] @ 1115
   4. Amiodarone 400 mg PO BID Order date: [**11-28**] @ 1435
   5. Mexiletine 150 mg PO Q8H  Order date: [**11-28**] @ 1736
   6. Ondansetron 4 mg IV Q8H:PRN  Order date: [**11-29**] @ 1135
   7. Aspirin 81 mg PO DAILY  Order date: [**11-27**] @ 1148
   8. Pantoprazole 40 mg PO Q12H  Order date: [**11-30**] @ 0916
   9. Ezetimibe 10 mg PO DAILY Start: In am Order date: [**11-27**] @ 1820
   10. Fish Oil (Omega 3) 1000 mg PO HS  Order date: [**11-27**] @ 1433
   11. Vancomycin 1000 mg IV Q48H Day 1: [**2135-11-29**]  Order date: [**11-29**] @
   1154
   12. Insulin SC  (per Insulin Flowsheet)       Sliding Scale Order date:
   [**11-30**] @ 0607